US07566724B2
Under an argon atmosphere, sodium hydride (100 mg) was added to a solution of 4-iodoaniline (220 mg) and 2-chloro-4-methoxypyrimidine (145 mg) in anhydrous DMF (10 ml), and the resulting mixture was stirred at 125° C. for 21 hours. The reaction solution was cooled to room temperature and water was added thereto, followed by extracting the resulting mixture with ethyl acetate. Organic layer was washed twice with water and once with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: hexane/ethyl acetate=10/1) to obtain N-(4-iodophenyl)-4-methoxypyrimidin-2-amine (46 mg). (2) Under an argon atmosphere, N-(4-iodophenyl)-4-methoxypyrimidin-2-amine (46 mg) was added to a suspension of sodium hydride (11 mg) in anhydrous DMF (5 ml), and the resulting mixture was stirred at room temperature for 5 minutes. Methyl iodide (0.0096 ml) was added dropwise to the reaction solution, and the resulting mixture was stirred at room temperature for 23 hours. Water was added thereto and the resulting mixture was extracted with ethyl acetate. Organic layer was washed twice with water and once with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: hexane/ethyl acetate=3/1) to obtain N-(4-iodophenyl)-4-methoxy-N-methylpyrimidin-2-amine (46 mg).

reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | 4-iodoaniline | 220 mg | IC1=CC=C(N)C=C1 | C6H6IN
reactant | 2-chloro-4-methoxypyrimidine | 145 mg | ClC1=NC=CC(=N1)OC | C5H5ClN2O
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-(4-iodophenyl)-4-methoxypyrimidin-2-amine | 46 mg | IC1=CC=C(C=C1)NC1=NC=CC(=N1)OC | C11H10IN3O
